US07618973B2
b) 5-(5-Methyl-3-phenyl-isoxazol-4-ylmethoxy)-pyrazine-2-carboxylic acid cyclopropylmethyl-amide
To a solution of 5-(5-methyl-3-phenyl-isoxazol-4-ylmethoxy)-pyrazine-2-carboxylic acid (150 mg, 0.48 mmol) in DMF (2 mL) were added 2-(1H-benzotriazole-1-yl)-1,1,3,3-tetramethyluronium tetrafluoroborate (170 mg, 0.55 mmol), N,N-diisopropyl ethyl amine (410 μL, 2.4 mmol) and aminomethylcyclopropane (41 mg, 0.58 mmol). The resulting reaction mixture was stirred for 30 min at room temperature and diluted with water. The mixture was then extracted with ethyl acetate and the combined organic layers washed with aqueous sodium carbonate (saturated) and dried over sodium sulfate. Concentration and purification by chromatography (SiO2, heptane:ethyl acetate=90:10 to 60:40, 117 mg, 67%) which was obtained as an off-white solid. MS: m/e=365.3 [M+H]+.

reactant | 5-(5-methyl-3-phenyl-isoxazol-4-ylmethoxy)-pyrazine-2-carboxylic acid | 0.48 mmol, 150 mg | CC1=C(C(=NO1)C1=CC=CC=C1)COC=1N=CC(=NC1)C(=O)O | C16H13N3O4
reactant | 2-(1H-benzotriazole-1-yl)-1,1,3,3-tetramethyluronium tetrafluoroborate | 0.55 mmol, 170 mg | F[B-](F)(F)F.N1(N=NC2=C1C=CC=C2)OC(=[N+](C)C)N(C)C
reactant | N,N-diisopropyl ethyl amine | 2.4 mmol, 410 μL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | aminomethylcyclopropane | 0.58 mmol, 41 mg | NCC1CC1 | C4H9N
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 5-(5-Methyl-3-phenyl-isoxazol-4-ylmethoxy)-pyrazine-2-carboxylic acid cyclopropylmethyl-amide | C1(CC1)CNC(=O)C1=NC=C(N=C1)OCC=1C(=NOC1C)C1=CC=CC=C1 | C20H20N4O3
